US04988828
3-[3-(1,3-dioxolan-2-yl)phenoxy]propylamine (16.3 g) was dissolved in 400 ml of methylene chloride, and p-nitrophenyl 2-(furfurylsulfinyl)acetate (22.58 g) was added little by little. The mixture was stirred at room temperature for 18 hours. The organic layer was washed successively with a 1N aqueous NaOH solution and water and dried over anhydrous magnesium sulfate. The solvent was evaporated to give 21.29 g (yield 74%) of N-{3-[3-(1,3-dioxolan-2-yl)phenoxy]propyl}-2-(furfurylsulfinyl)acetamide.

reactant | 3-[3-(1,3-dioxolan-2-yl)phenoxy]propylamine | 16.3 g | O1C(OCC1)C=1C=C(OCCCN)C=CC1 | C12H17NO3
reactant | p-nitrophenyl 2-(furfurylsulfinyl)acetate | 22.58 g | C(C1=CC=CO1)S(=O)CC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO6S
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | N-{3-[3-(1,3-dioxolan-2-yl)phenoxy]propyl}-2-(furfurylsulfinyl)acetamide | 21.29 g, yield 74% | O1C(OCC1)C=1C=C(OCCCNC(CS(=O)CC2=CC=CO2)=O)C=CC1 | C19H23NO6S
